US07144897B2
N1-{(1S,2R)-N-[(t-butyloxy)carbonyl]-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)-amino]-2-hydroxypropyl}-N2-(4-methoxybenzoyl)-3-[(1-propylbutyl)sulfonyl]-D,L-alaninamide, (LXXXVIII, 114 mg, 0.14 mmole) in hydrochloric acid (4 N, 1 ml) in dioxane. After stirring for 10 minutes at 20–25°, the solvent is removed under reduced pressure to give N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N2-(4-methoxybenzoyl)-3-[(1-propylbutyl)sulfonyl]-D,L-alaninamide hydrochloride,

reactant | N1-{(1S,2R)-N-[(t-butyloxy)carbonyl]-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)-amino]-2-hydroxypropyl}-N2-(4-methoxybenzoyl)-3-[(1-propylbutyl)sulfonyl]-D,L-alaninamide | C(C)(C)(C)OC(=O)N(C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C(NC(C1=CC=C(C=C1)OC)=O)CS(=O)(=O)C(CCC)CCC)=O)O)CC1=CC(=CC=C1)CC | C42H57F2N3O8S
reactant | hydrochloric acid | 4 N, 1 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N2-(4-methoxybenzoyl)-3-[(1-propylbutyl)sulfonyl]-D,L-alaninamide hydrochloride | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C(NC(C2=CC=C(C=C2)OC)=O)CS(=O)(=O)C(CCC)CCC)=O)C=C(C1)F | InChI=1S/C37H49F2N3O6S.ClH/c1-5-9-32(10-6-2)49(46,47)24-34(42-36(44)28-13-15-31(48-4)16-14-28)37(45)41-33(20-27-18-29(38)21-30(39)19-27)35(43)23-40-22-26-12-8-11-25(7-3)17-26;/h8,11-19,21,32-35,40,43H,5-7,9-10,20,22-24H2,1-4H3,(H,41,45)(H,42,44);1H/t33-,34?,35+;/m0./s1
